### PR TITLE
[Merged by Bors] - feat(push): `push` annotations for `Real.log`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR adds `push` annotations, and tests for `Real.log`.

It also updates the `#push` and `#pull` commands so that they can take a discharger, and can take any head.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean [hunk 1]
```diff
@@ -371,11 +374,13 @@ lemma log_multiset_prod {s : Multiset ℝ} (h : ∀ x ∈ s, x ≠ 0) :
   rw [← prod_toList, log_list_prod (by simp_all), sum_map_toList]
 
 open Finset in
+@[push]
 theorem log_prod {α : Type*} {s : Finset α} {f : α → ℝ} (hf : ∀ x ∈ s, f x ≠ 0) :
     log (∏ i ∈ s, f i) = ∑ i ∈ s, log (f i) := by
   rw [← prod_map_toList, log_list_prod (by simp_all)]
   simp
 
+@[push]
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:387]: This side condition seems somewhat non-trivial to discharge --- so currently, this lemma will not always apply. That said, there's not much harm in having it anyway, you can probably use a `discharger` to prove it in practice (and we will hopefully have support for discharging side goals properly).

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 2]
```diff
@@ -469,6 +469,7 @@ theorem inv_rpow (hx : 0 ≤ x) (y : ℝ) : x⁻¹ ^ y = (x ^ y)⁻¹ := by
 theorem div_rpow (hx : 0 ≤ x) (hy : 0 ≤ y) (z : ℝ) : (x / y) ^ z = x ^ z / y ^ z := by
   simp only [div_eq_mul_inv, mul_rpow hx (inv_nonneg.2 hy), inv_rpow hy]
 
+@[push low] -- lower priority than `log_pow` and `log_zpow`
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean]: Please add a comment *why* this is lower priority: because the pull lemma priority. Thanks!

File: MathlibTest/push.lean [hunk 3]
```diff
@@ -73,3 +73,22 @@ example : (fun x : ℕ ↦ x ^ 2 + 1 * 0 - 5 • 6) = id ^ 2 + 1 * 0 - 5 • 6 :
   simp only [pullFun]
 
 end lambda
+
+section log
+
+example (a b : ℝ) (ha : 0 < a) (hb : 0 < b) : Real.log (a * b) = Real.log a + Real.log b := by
+  pull (disch := positivity) Real.log
+  rfl
+
```
Comment (grunweg) [inline MathlibTest/push.lean:82]: Can you also add a test for some of the other lemmas, and a test for the `rpow` bug?

**Review by grunweg — COMMENTED** [review]
First set of comments.

File: Mathlib/Tactic/Push.lean [hunk 4]
```diff
@@ -294,16 +294,17 @@ which will print the `push head` form of `e`.
 
 `#push` understands local variables, so you can use them to introduce parameters.
 -/
-macro (name := pushCommand) tk:"#push " head:ident ppSpace e:term : command =>
```
Comment (grunweg) [inline Mathlib/Tactic/Push.lean]: Can you please add a comment why allowing `head` as any term is useful? (Also for #pull below.)

File: MathlibTest/push.lean [hunk 5]
```diff
@@ -12,15 +12,15 @@ variable {p q r : Prop}
...
 
 /-- info: (p ∨ q) ∧ (p ∨ r) -/
 #guard_msgs in
-#push Or (p ∨ q) ∧ (p ∨ r)
+#push Or => (p ∨ q) ∧ (p ∨ r)
 
 /-- info: (p ∧ q ∨ q) ∨ p ∧ r ∨ r -/
 #guard_msgs in
-#push And (p ∨ True) ∧ (q ∨ r)
+#push And => (p ∨ True) ∧ (q ∨ r)
```
Comment (grunweg) [inline MathlibTest/push.lean]: Please add a test (or several) for the term form of push or pull.

**Review by grunweg — COMMENTED** [review]
Thanks! Looks good to me, with comments addressed. Please also mention the reason for allowing a term head in the PR description; that's really useful context!

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:387]: Yes, we would like to have `push` create side goals, so that this side goal can be shown to the user.

File: Mathlib/Tactic/Push.lean (hunk 4 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Push.lean]: This is the same as in the main `push`/`pull` tactic (which also parse a `term` for the head), so I think it doesn't need a separate comment here.
